US06271225B1
In the same manner as in Example 98 and using N-(2-hydroxy-3-methylphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide and potassium carbonate, 2,9-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one is obtained.

reactant | N-(2-hydroxy-3-methylphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | OC1=C(C=CC=C1C)NC(=O)C1=C(SC(=C1)C)Br | C13H12BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2,9-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | CC1=CC2=C(OC3=C(NC2=O)C=CC=C3C)S1 | C13H11NO2S
